US04673746
A solution of 31.8 g of 2,3-dichloro-4-hydroxy-2'-fluoro-benzophenone and 15.3 g of hydroxylamine hydrochloride in 150 ml of pyridine is refluxed for 64 hours. Thereafter the pyridine is evaporated under vacuum and a 5% aqueous hydrochloric acid solution is added. The acidified solution is extracted with ethyl acetate and the combined extracts are dried before being concentrated to dryness. The resulting solid is recrystallized from an aqueous ethanol solution to yield the product 2,3-dichloro-4-hydroxy-2'-fluorobenzophenone oxime with a melting point of 168° to 175° C.

reactant | 2,3-dichloro-4-hydroxy-2'-fluoro-benzophenone | 31.8 g | ClC1=C(C(=O)C2=C(C=CC=C2)F)C=CC(=C1Cl)O | C13H7Cl2FO2
reactant | hydroxylamine hydrochloride | 15.3 g | Cl.NO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dichloro-4-hydroxy-2'-fluorobenzophenone oxime | ClC1=C(C(C2=C(C=CC=C2)F)=NO)C=CC(=C1Cl)O | C13H8Cl2FNO2
